US08623889B2
Step 1: tert-butyl 5-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylpyridin-2-ylcarbamate
A mixture of N-(7-(6-chloro-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide (63.5 mg, 188 μmol), tert-butyl carbamate (46.7 mg, 399 μmol), chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl][2-(2-aminoeth yl)phenyl]palladium(II) (16.9 mg, 21 μmol), 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl (10.6 mg, 20 μmol), and cesium carbonate (127 mg, 390 μmol) in 1,4-dioxane (1.0 mL) was heated in a sealed vessel at 90° C. for 20 hours. The mixture was treated with further portions of tert-butyl carbamate (67.1 mg, 537 μmol), chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl][2-(2-aminoeth yl)phenyl]palladium(II) (20.1 mg, 25 μmol) and 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl (12.9 mg, 24 μmol) and heated at 90° C. for a further 24 hours. The cooled mixture was diluted with brine, extracted twice into dichloromethane, and twice more with DCM to which methanol was added. The combined organic phases were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in DCM, filtered through a celite pad and concentrated in vacuo to afford the impure title compound as a brown solid, used in the next step without purification. LCMS: M+H+=419.

reactant | N-(7-(6-chloro-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 188 μmol, 63.5 mg | ClC1=CC(=C(C=N1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C19H16ClN3O
reactant | tert-butyl carbamate | 399 μmol, 46.7 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 390 μmol, 127 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl carbamate | 537 μmol, 67.1 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | tert-butyl 5-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylpyridin-2-ylcarbamate | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C(=CC(=NC1)NC(OC(C)(C)C)=O)C | C24H26N4O3
